US08040047B2
(ii) Synthesis of 2-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol
4.9 g (17 mmol) of 2-bromo-9,10-anthraquinone was put in a 300 mL three-neck flask, the atmosphere in the flask was substituted by nitrogen, and 100 mL of tetrahydrofuran (THF) was added thereto and dissolved well. Then, 18 mL (37 mmol) of phenyllithium was dropped into this solution and stirred at room temperature for approximately 12 hours. After reaction, the solution was washed with water, and an aqueous layer was extracted with ethyl acetate. The extracted solution and an organic layer were dried with magnesium sulfate. After drying, the mixture was subjected to suction filtration, and the filtrate was concentrated, so that 2-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol (about 7.6 g), which was the object of the synthesis, was obtained.

reactant | 2-bromo-9,10-anthraquinone | 17 mmol, 4.9 g | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C14H7BrO2
reactant | phenyllithium | 37 mmol, 18 mL | C1(=CC=CC=C1)[Li]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-bromo-9,10-diphenyl-9,10-dihydroanthracene-9,10-diol | BrC1=CC=2C(C3=CC=CC=C3C(C2C=C1)(O)C1=CC=CC=C1)(O)C1=CC=CC=C1 | C26H19BrO2
